US03940411
According to the above procedure, ethyl 1-ethyl-5-nitro-2-imidazolecarboximidate and thiosemicarbazide are allowed to react to give 1-(1-ethyl-5-nitro-2-imidazolecarboximidoyl)-3-thiosemicarbazide (IIIN).

reactant | ethyl 1-ethyl-5-nitro-2-imidazolecarboximidate | C(C)N1C(=NC=C1[N+](=O)[O-])C(OCC)=N | C8H12N4O3
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
product | 1-(1-ethyl-5-nitro-2-imidazolecarboximidoyl)-3-thiosemicarbazide | C(C)N1C(=NC=C1[N+](=O)[O-])C(=N)NNC(=S)N | C7H11N7O2S
